US05688792
Step 3: N-carbobenzyloxy-3,5-difluoro-4-morpholinyl aniline
To a solution of 0.518 g of 3,5-difluoro-4-morpholinyl-aniline and 0.432 g of sodium bicarbonate in 20 mL of acetone:water (2:1 v/v) at 0° C. was added 0.36 mL of benzyl chloroformate over 2 minutes. After 5.5 hours, the mixture was allowed to warm to ambient temperature and after an additional 2.6 hours, the mixture was added to 25 mL of ethyl acetate and 20 mL of brine. The aqueous layer was extracted with 3×25 ml of ethyl acetate and the combined organic layers were dried (MgSO4), and concentrated in vacuo to give a solid, mp=131°-133° C.

reactant | 3,5-difluoro-4-morpholinyl-aniline | 0.518 g | FC=1C=C(N)C=C(C1N1CCOCC1)F | C10H12F2N2O
reactant | sodium bicarbonate | 0.432 g | C([O-])(O)=O.[Na+]
reactant | benzyl chloroformate | 0.36 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | acetone water | 20 mL | CC(=O)C.O
solvent | brine | 20 mL | [Cl-].[Na+].O
product | N-carbobenzyloxy-3,5-difluoro-4-morpholinyl aniline | C(=O)(OCC1=CC=CC=C1)NC1=CC(=C(C(=C1)F)N1CCOCC1)F | C18H18F2N2O3
